US08258306B2
To a solution of tert-butyl 4-(hydroxy(phenyl)(4-(trifluoromethyl)phenyl)methyl)piperidine-1-carboxylate (1.0 g, 2.29 mmol) in dry DCM (10 mL) at 0° C. was added TFA (10 mL) dropwise and the resulting solution was stirred at rt for 16 h. The solvents were removed under vacuum. The residue was diluted with DCM, washed with sodium bicarbonate solution and water, dried over sodium sulfate and concentrated under vacuum to afford crude compound which was crashed out of pentane to give 4-(phenyl(4-(trifluoromethyl)phenyl)-methylene)piperidine (0.5 g, 69%) as a grey solid. MS (ESI, pos. ion) m/z: 318 (M+1).

reactant | tert-butyl 4-(hydroxy(phenyl)(4-(trifluoromethyl)phenyl)methyl)piperidine-1-carboxylate | 2.29 mmol, 1.0 g | OC(C1CCN(CC1)C(=O)OC(C)(C)C)(C1=CC=C(C=C1)C(F)(F)F)C1=CC=CC=C1 | C24H28F3NO3
reactant | TFA | 10 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | pentane | CCCCC | C5H12
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-(phenyl(4-(trifluoromethyl)phenyl)-methylene)piperidine | 0.5 g, 69% | C1(=CC=CC=C1)C(=C1CCNCC1)C1=CC=C(C=C1)C(F)(F)F | C19H18F3N
